Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[C:1]1[CH:2]([CH2:3][CH2:4][CH2:5][C:6]([O:7][CH2:8][CH3:9])=[O:10])[c:11]2[c:12]([cH:13][cH:14][cH:15][cH:16]2)[N:17]([CH2:18][CH2:19][CH2:20][N:21]([CH3:22])[CH3:23])[c:24]2[c:25]1[cH:26][cH:27][cH:28][cH:29]2>>[CH2:1]1[CH:2]([CH2:3][CH2:4][CH2:5][C:6]([O:7][CH2:8][CH3:9])=[O:10])[c:11]2[c:12]([cH:13][cH:14][cH:15][cH:16]2)[N:17]([CH2:18][CH2:19][CH2:20][N:21]([CH3:22])[CH3:23])[c:24]2[c:25]1[cH:26][cH:27][cH:28][cH:29]2,[O:101]=[C:1]1[CH:2]([CH2:3][CH2:4][CH2:5][C:6]([O:7][CH2:8][CH3:9])=[O:10])[c:11]2[c:12]([cH:13][cH:14][cH:15][cH:16]2)[N:17]([CH2:18][CH2:19][CH2:20][N:21]([CH3:22])[CH3:23])[c:24]2[c:25]1[cH:26][cH:27][cH:28][cH:29]2.[NH2:301][NH2:302].[H+:303].[OH-:304]>>[CH2:1]1[CH:2]([CH2:3][CH2:4][CH2:5][C:6]([O:7][CH2:8][CH3:9])=[O:10])[c:11]2[c:12]([cH:13][cH:14][cH:15][cH:16]2)[N:17]([CH2:18][CH2:19][CH2:20][N:21]([CH3:22])[CH3:23])[c:24]2[c:25]1[cH:26][cH:27][cH:28][cH:29]2,Wolf_Kishner_reduction,"[(301, 1), ([1, 101], 303), (101, 301.1), ([301.1, 301], 301), (301, [301, 1]), ([1, 101], 101), ([301.1, 301], 301), (304, 302.1), ([302.1, 302], [302, 301]), ([301, 1], 1), (1, 304.1), ([304.1, 304], 304), (304, 302.1), ([302.1, 302], [302, 301]), ([301, 1], 1), (1, 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8].[CH3:9][O:10][C:11](=[O:12])[C:13]([CH3:14])([OH:15])[c:16]1[cH:17][cH:18][c:19]([OH:20])[cH:21][cH:22]1>>[CH2:1]([C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8])[O:20][c:19]1[cH:18][cH:17][c:16]([C:13]([C:11]([O:10][CH3:9])=[O:12])([CH3:14])[OH:15])[cH:22][cH:21]1,[CH3:9][O:10][C:11](=[O:12])[C:13]([CH3:14])([OH:15])[c:16]1[cH:17][cH:18][c:19]([OH:20])[cH:21][cH:22]1.[Br:101][CH2:1][C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8].[H-:301].[Na+]>>[CH2:1]([C:2]([O:3][C:4]([CH3:5])([CH3:6])[CH3:7])=[O:8])[O:20][c:19]1[cH:18][cH:17][c:16]([C:13]([C:11]([O:10][CH3:9])=[O:12])([CH3:14])[OH:15])[cH:22][cH:21]1,SN2_alcohol(thiol),"[(301, 20.1), ([20.1, 20], 20), (20, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[NH2:1][c:2]1[c:3]([Br:4])[cH:5][c:6]([C:7](=[O:8])[CH2:9][NH:10][CH:11]2[CH2:12][CH2:13]2)[cH:14][c:15]1[C:16]([F:17])([F:18])[F:19]>>[NH2:1][c:2]1[c:3]([Br:4])[cH:5][c:6]([CH:7]([OH:8])[CH2:9][NH:10][CH:11]2[CH2:12][CH2:13]2)[cH:14][c:15]1[C:16]([F:17])([F:18])[F:19],[NH2:1][c:2]1[c:3]([Br:4])[cH:5][c:6]([C:7](=[O:8])[CH2:9][NH:10][CH:11]2[CH2:12][CH2:13]2)[cH:14][c:15]1[C:16]([F:17])([F:18])[F:19].[BH4-:301].[CH3][OH1:302]>>[NH2:1][c:2]1[c:3]([Br:4])[cH:5][c:6]([CH:7]([OH:8])[CH2:9][NH:10][CH:11]2[CH2:12][CH2:13]2)[cH:14][c:15]1[C:16]([F:17])([F:18])[F:19],carbonyl_reduction,"[([301, 301.1], 7), ([7, 8], 8), (8, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][c:7]2[c:8]([cH:9]1)[S:10][c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[O:17]2.[NH2:18][C@@H:19]([CH2:20][CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28](=[O:29])[OH:30]>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][c:7]2[c:8]([cH:9]1)[S:10][c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[O:17]2)[NH:18][C@@H:19]([CH2:20][CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28](=[O:29])[OH:30],[Cl:101][S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][c:7]2[c:8]([cH:9]1)[S:10][c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[O:17]2.[NH2:18][C@@H:19]([CH2:20][CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28](=[O:29])[OH:30]>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][c:7]2[c:8]([cH:9]1)[S:10][c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[O:17]2)[NH:18][C@@H:19]([CH2:20][CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28](=[O:29])[OH:30],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(18, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
